US04021542
4-amino-1-(β-D-ribofuranosyl)pyrazolo[3,4-d]pyrimidine
1.45 g (2.7 mmoles) of 4-amino-1-(2,3,5-tri-O-benzyl-β -D-ribofuranosyl)pyrazolo[ 3,4-d]pyrimidine are hydrogenated in a manner similar to that of Example 6. The 4-amino- 1-(β-D-ribofuranosyl)pyrazolo[ 3,4-d] pyrimidine precipitates; however, during the reaction so that in this case the preparation is modified. The reaction mixture is filtered off (vacuum filter funnel) from the catalyst and the reaction product which has been partially precipitated. The obtained solution is neutralized with diluted NaHCO3 solution. The catalyst with the remainder of the product is washed in a pointed funnel with the application of vacuum using hot water. The solution so obtained is neutralised and combined with the above solution. It is freed of solvent and the product, which is contaminated with a little NaCl, is recrystallised from H2O. White needles are obtained. Yield: 350 mg (48 %), Melting point: 253° C.(4).

reactant | 4-amino-1-(2,3,5-tri-O-benzyl-β -D-ribofuranosyl)pyrazolo[ 3,4-d]pyrimidine | 2.7 mmoles, 1.45 g | NC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2 | C31H31N5O4
reactant | NaCl | [Na+].[Cl-]
product | 4-amino-1-(β-D-ribofuranosyl)pyrazolo[3,4-d]pyrimidine | NC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C10H13N5O4
